US04697033
To a solution of 2-[4-(1-methylpropoxy)phenoxy]propylamine (1.13 g, 5.10 mmol) in 25 ml of ether, at 0° and under N2, is added ethyl chloroformate (1.16 g, 10.60 mmol) by syringe, followed by addition of 10% aqueous sodium hydroxide (3.4 ml). After 15 min., the reaction is worked up by addition of water and extraction with ether. The combined organic phases are washed with 1N sulfuric acid, with water and with brine, dried and filtered, the filtrate is concentrated in vacuo and the product is purified by prep. TLC to give ethyl N-{2-[4-(1-methylpropoxy)phenoxy]propyl}carbamate.

reactant | 2-[4-(1-methylpropoxy)phenoxy]propylamine | 5.10 mmol, 1.13 g | CC(CC)OC1=CC=C(OC(CN)C)C=C1 | C13H21NO2
reactant | ethyl chloroformate | 10.60 mmol, 1.16 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 3.4 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
product | ethyl N-{2-[4-(1-methylpropoxy)phenoxy]propyl}carbamate | CC(CC)OC1=CC=C(OC(CNC(OCC)=O)C)C=C1 | C16H25NO4
